US07732604B2
To a solution of 6-(6-bromo-[1,2,3]triazolo[4,5-b]pyrazin-1-ylmethyl)-quinoline (845 mg, 2.48 mmol) in DME (16 mL) was added 1-[2-(tetrahydro-pyran-2-yloxy)-ethyl]-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazole (800 mgs, 2.48 mmol) and Cs2CO3 (2.42 g, 7.43 mmol) in H2O (4 mL). The reaction mixture was degassed and charged with nitrogen for three times. The palladium catalyst Pd(dppf).CH2Cl2 (101 mg, 0.124 mmol) was added and the reaction mixture was degassed and charged with nitrogen for three times, and stirred for 16 hours at 80° C. under nitrogen. The reaction mixture was then filtered over a pad of Celite, and washed with EtOAc (50 mL) and water (25 mL). The filtrate was extracted with EtOAc (3×50 mL). The organics were dried over Na2SO4, filtered, and concentrated in vacuo. The crude product was purified with a Biotage silica gel column chromatography (40+S, 0-50% EtOAc/Hexanes 5CV (column volume), 50-100% EtOAc/Hexanes 10 CV, 100% EtOAc 10 CV) to provide 6-(6-{1-[2-(tetrahydro-pyran-2-yloxy)-ethyl]-1H-pyrazol-4-yl}-[1,2,3]triazolo[4,5-b]pyrazin-1-ylmethyl)-quinoline (910 mgs, 81% yield) as a solid. 1H NMR (300 MHz, DMSO-d6) δ 9.23 (s, 1H) 8.82-8.95 (m, 1H) 8.67 (s, 1H) 8.28-8.45 (m, 2H) 7.92-8.08 (m, 2H) 7.77-7.90 (m, 1H) 7.53 (dd, J=8.29, 4.14 Hz, 1H) 6.15 (s, 2H) 4.49-4.62 (m, 2H) 4.30-4.47 (m, 2H) 3.91-4.00 (m, 1H) 3.67-3.87 (m, J=5.46 Hz, 1H) 3.47-3.60 (m, 1H) 3.35-3.42 (m, 1H) 1.48-1.66 (m, 2H) 1.32-1.45 (m, 3H).

reactant | 6-(6-bromo-[1,2,3]triazolo[4,5-b]pyrazin-1-ylmethyl)-quinoline | 2.48 mmol, 845 mg | BrC1=CN=C2C(=N1)N(N=N2)CC=2C=C1C=CC=NC1=CC2 | C14H9BrN6
reactant | 1-[2-(tetrahydro-pyran-2-yloxy)-ethyl]-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazole | 2.48 mmol, 800 mgs | O1C(CCCC1)OCCN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C16H27BN2O4
reactant | Cs2CO3 | 7.43 mmol, 2.42 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | CH2Cl2 | 0.124 mmol, 101 mg | C(Cl)Cl | CH2Cl2
solvent | DME | 16 mL | COCCOC | C4H10O2
solvent | H2O | 4 mL | O | H2O
product | 6-(6-{1-[2-(tetrahydro-pyran-2-yloxy)-ethyl]-1H-pyrazol-4-yl}-[1,2,3]triazolo[4,5-b]pyrazin-1-ylmethyl)-quinoline | 910 mgs, 81% yield | O1C(CCCC1)OCCN1N=CC(=C1)C1=CN=C2C(=N1)N(N=N2)CC=2C=C1C=CC=NC1=CC2 | C24H24N8O2
